US07148234B2
STEP 3. 2-(6-amino-3-pyridinyl)ethanol
To a solution of ethyl(6-nitro-3-pyridinyl)acetate (468 mg, 2.60 mmol) in tetrahydrofuran was added LiAlH4 and stirred for 2 h at room temperature. The reaction was quenched with saturated 25% NH3 aqueous solution and the precipitate was removed. The filtrate was concentrated to give a title compound as yellow oil.

reactant | ethyl(6-nitro-3-pyridinyl)acetate | 2.60 mmol, 468 mg | C(C)OC(CC=1C=NC(=CC1)[N+](=O)[O-])=O | C9H10N2O4
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(6-amino-3-pyridinyl)ethanol | NC1=CC=C(C=N1)CCO | C7H10N2O
